US06083961
To a solution of tert-butyldiphenylsilyl chloride (30.7 g) in dimethylformamide (90 ml) was added 2,6-dimethyl-3-nitrobenzyl alcohol (18.4 g), and imidazole (8.99 g) was added thereto under ice-cooling. The mixture was stirred for 15 minutes at the same temperature and then for 3 hours at ambient temperature. The reaction mixture was poured into ice water, and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo to give 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dimethyl-3-nitrobenzene (46.67 g) as pale yellow oil.

reactant | tert-butyldiphenylsilyl chloride | 30.7 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | 2,6-dimethyl-3-nitrobenzyl alcohol | 18.4 g | CC1=C(CO)C(=CC=C1[N+](=O)[O-])C | C9H11NO3
reactant | imidazole | 8.99 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dimethyl-3-nitrobenzene | 46.67 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1C)[N+](=O)[O-])C | C25H29NO3Si
